US08202858B2
3-[4-(3,4-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic Acid Tert-butyl Ester
Sodium hydride (14 mg, 0.34 mmol) was added to a solution of 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid tert-butyl ester from Example E45 (125 mg, 0.28 mmol) in DMF (2 ml) at 0° C. The mixture was stirred for 20 min at room temperature then cooled down to 0° C. Methyl iodide (0.09 ml, 1.4 mmol) was added and the mixture was stirred for 20 h at room temperature. EtOAc was added and the mixture was washed with 0.3M KHSO4 then brine, dried, concentrated in vacuo and azeotroped with toluene. The residue was purified by flash chromatography on silica gel through an isolute (eluant; EtOAc) to yield the title compound (46 mg, 36%).

reactant | Sodium hydride | 0.34 mmol, 14 mg | [H-].[Na+]
reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C26H30N4O3
reactant | Methyl iodide | 1.4 mmol, 0.09 ml | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[4-(3,4-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic Acid Tert-butyl Ester | 46 mg, 36% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(N(C=3N(N=CC3C1)C)C)C=CC=C2)C)=O | C27H32N4O3
